US04096176
In a manner similar to that of part B of Example 3 condensation of 2-(2,4-bis(dimethylamino)benzoyl)benzoic acid (2.4 g.) and m-(dimethylamino)acetanilide (1.42 g.) and recrystallization of part of the product from a mixture of toluene, ligroin and hexane and part from a mixture of ethyl acetate and hexane afforded 3-(2,4-bis(dimethylamino)phenyl)-3-(2-acetamido-4-(dimethylamino)phenyl)phthalide (I: X = Y4 = (CH3)2N, Y2 = CH3CONH, Z4 = Z5 = Z6 = Z7 = H) (m.p. 97°-136° C.).

reactant | 2-(2,4-bis(dimethylamino)benzoyl)benzoic acid | 2.4 g | CN(C1=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=CC(=C1)N(C)C)C | C18H20N2O3
reactant | m-(dimethylamino)acetanilide | 1.42 g | CN(C=1C=C(NC(C)=O)C=CC1)C | C10H14N2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2,4-bis(dimethylamino)phenyl)-3-(2-acetamido-4-(dimethylamino)phenyl)phthalide | CN(C1=C(C=CC(=C1)N(C)C)C1(OC(=O)C2=CC=CC=C12)C1=C(C=C(C=C1)N(C)C)NC(C)=O)C | C28H32N4O3
